US05677305
First, 1.244 g of 7-fluoro-6-nitro-1-(n-propyl)-1,4-dihydroquinoxaline-2,3-dione, 952 mg of 4-hydroxypyridine, and 711 mg of powdered potassium hydroxide were added to 10 ml of dry dimethylsulfoxide. The mixture was stirred at 130° C. for 3.5 hours in a nitrogen atmosphere. Then, 50 ml of water was added to the reaction mixture and the mixture was made acidic (pH 2 to 3) with 4N hydrochloric acid to give a yellow precipitate. The precipitate was filtered and recrystallized with dimethylformaldehyde to give 1.08 g of 6-nitro-7-(4-oxo-4H-pyridin-1-yl)-1-(n-propyl)-1,4-dihydroquinoxaline-2,3-dione.

reactant | 7-fluoro-6-nitro-1-(n-propyl)-1,4-dihydroquinoxaline-2,3-dione | 1.244 g | FC1=C(C=C2NC(C(N(C2=C1)CCC)=O)=O)[N+](=O)[O-] | C11H10FN3O4
reactant | 4-hydroxypyridine | 952 mg | OC1=CC=NC=C1 | C5H5NO
reactant | potassium hydroxide | 711 mg | [OH-].[K+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 6-nitro-7-(4-oxo-4H-pyridin-1-yl)-1-(n-propyl)-1,4-dihydroquinoxaline-2,3-dione | 1.08 g | [N+](=O)([O-])C=1C=C2NC(C(N(C2=CC1N1C=CC(C=C1)=O)CCC)=O)=O | C16H14N4O5
